*KEMET Model RLC Cerm
*Temp = 25°C, Bias = 0VDC, Center Frequency = 10000 Hz
.SUBCKT C0201C101K3GACTU 1 6
R1 3 4 370.192260742188
R2 2 5 8.19999980926514
R3 1 6 99999997952
L1 1 2 3.7999997593019E-11
L2 2 3 7.2199995426736E-10
C1 4 6 1.00000001335143E-10
C2 5 6 5.00000007450581E-14
.ENDS C0201C101K3GACTU
