.SUBCKT C1206C104K1RACTU_KEMET 1 6
*Temp = 25°C, Bias = 0VDC, Center Frequency = 10000 Hz
*KEMET Model RLC Cerm
R1 3 4 2.34877896308899
R2 2 5 2.73199987411499
R3 1 6 10000000000
L1 1 2 4.60000010304995E-11
L2 2 3 8.74000019579491E-10
C1 4 6 9.63658450814364E-08
C2 5 6 2.09999990463257E-12
.ENDS
