*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : BLM18AG601SN1
* Property : Z@100MHz = 600[ohm]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 3GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT BLM18AG601SN1_MURATA port1 port2
R1 port1 1 526.0
L1 port1 1 9.800e-7
C2 1 2 6.265e-10
R2 2 3 157.2
L2 1 3 1.870e-6
C1 port1 3 7.195e-13
R3 3 4 20.19
L3 3 4 6.138e-7
R4 4 port2 2.300e-1
.ENDS BLM18AG601SN1_MURATA
*----------------------------------------------------------------------
